US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (90 mg, 0.212 mmol) with 3-chloro-4-(3,3-dimethyl-butyryl)-benzylamine (102 mg, 0.43 mmol) by using tris(dibenzylideneacetone)dipalladium(0) (39 mg, 0.0424 mmol), BINAP (53 mg, 0.0848 mmol) and cesium carbonate (97 mg, 0.297 mmol) in anhydrous toluene (10 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 7-chloro-6-[3-chloro-4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (72 mg, 49%). MS (ES+) m/z: 516 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.212 mmol, 90 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 3-chloro-4-(3,3-dimethyl-butyryl)-benzylamine | 0.43 mmol, 102 mg | ClC=1C=C(CN)C=CC1C(CC(C)(C)C)=O | C13H18ClNO
reactant | BINAP | 0.0848 mmol, 53 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.297 mmol, 97 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0424 mmol, 39 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[3-chloro-4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 72 mg, 49% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)C(CC(C)(C)C)=O)Cl | C25H27Cl2F3N2O2
